US06265411B1
A solution of oxindole (266 mg, 2.0 mmol) in THF (2 ml) was added dropwise under nitrogen to a stirred suspension of sodium hydride (80 mg, of a 60% dispersion in mineral oil, 2.0 mmol) in THF (1 ml). After stirring the resulting mixture for 15 minutes at ambient temperature, a solution of 4-chloro-6,7-dimethoxyquinazoline (449 mg, 2.0 mmol), (prepared as described for the starting material in Example 1), in THF (20 ml) was added. The mixture was stirred at ambient temperature for 2 hours, quenched with water and the volatiles removed by evaporation. The resulting solid was purified by flash chromatography eluting with methylene chloride/methanol (19/1). The purified product was triturated with methanol, collected by filtration, washed with ether and dried under vacuum to give 6,7-dimethoxy-4-(oxindol-3-yl)quinazoline (77 mg, 12%).

reactant | oxindole | 2.0 mmol, 266 mg | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | sodium hydride | [H-].[Na+]
reactant | 4-chloro-6,7-dimethoxyquinazoline | 2.0 mmol, 449 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 6,7-dimethoxy-4-(oxindol-3-yl)quinazoline | 77 mg, 12% | COC=1C=C2C(=NC=NC2=CC1OC)C1C(NC2=CC=CC=C12)=O | C18H15N3O3
